US07074863B2
4-Hydroxyindene (11).
To a solution of 4-(tert-butyldimethylsiloxy)-1-indanone (35.0 g, 133 mmol) in methanol/THF (100 ml:200 ml) was NaBH4 (7.57 g, 200 mmol) added in portions at 0° C. The reaction mixture is stirred overnight. The resulting solution is poured on ice, acidified with concentrated hydrochloric acid to pH=1 and extracted with diethyl eter (2×200 ml). The organic fractions were combined and washed with brine, water and dried over sodiumsulfate. The solvents were evaporated and the remaining oil (siloxyindanol) was dissolved in toluene (300 ml). To this solution was oxalic acid (24.0 g, 267 mmol) added. The mixture was heated under reflux for 3 hours, whereafter the reaction mixture was washed with a 10% aqueous solution of NaHCO3 and dried over sodiumsulfate. The solvent was removed by evaporation. The remaining yellow oil was dissolved in THF (300 ml) and treated with tetra-n-butylammonium fluoride (69.6 g, 266 mmol) at 0° C. and stirred for 30 min at room temperature. The reaction solution was treated with a saturated NH4Cl solution (200 ml) and extracted with diethyl ether (2×200 ml) The organic phase was collected, evaporation of solvent left a solid which was recrystallized from methanol to give a pale yellow solid (11.45 g, 86.6 mmol, 65.10%).

reactant | 4-(tert-butyldimethylsiloxy)-1-indanone | 133 mmol, 35.0 g | O([Si](C)(C)C(C)(C)C)C1=C2CCC(C2=CC=C1)=O | C15H22O2Si
reactant | NaBH4 | 200 mmol, 7.57 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | oxalic acid | 267 mmol, 24.0 g | C(C(=O)O)(=O)O | C2H2O4
reactant | tetra-n-butylammonium fluoride | 266 mmol, 69.6 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | methanol THF | 100 ml | CO.C1CCOC1
product | 4-Hydroxyindene | 86.6 mmol, 11.45 g, 65.10% | OC1=C2C=CCC2=CC=C1 | C9H8O
